US08466296B2
L. Preparation of (2S)-2-[(benzylamino)methyl]-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-e]indol-8-one
In a 500 mL Parr shake flask is charged crude ethyl {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetate (6.02 g, 14.5 mmol), ethanol (50 mL) and Pt—C (5% on carbon, 50% w/w water, 1.0 g). The flask is pressurized to 30 psig and shaken for 18 h. The pressure is released, the catalyst is removed by filtration through celite, and ethanol (20 mL) is used to rinse the filter cake. To the solution is added 85% H3PO4 (1.21 mL, 17.4 mmol) and the mixture is heated to 40° C. for 36 h. The solution is filtered through celite and the volatiles are removed. The residue is suspended in isopropyl acetate (50 mL), THF (25 mL) and 1 N NaOH is added until pH 10 is obtained. The organic extracts are washed with water and then with brine treated with Darco 12-20Li (0.5 g), filtered through celite and evaporated giving crude title compound (2.50 g, 55%) as a red-orange syrup. LCMS (Basic Method): 1.84 min, 311 (M+H)+. 1H NMR (400 MHz, CDCl3) δ 10.4 (br s, 1H), 7.35-7.27 (m, 5H), 6.73 (d, J=8.3 Hz, 1H), 6.36 (d, J=8.3 Hz, 1H), 4.37-4.35 (m, 1H), 4.25 (dd, J=2.2, 11.5 Hz, 1H), 4.03 (dd, J=7.3, 11.5 Hz, 1H), 3.88 (s, 2H), 3.44 (s, 2H), 2.97-2.88 (m, 2H), 8.9 (br s, 1H).

reactant | ethyl {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetate | 14.5 mmol, 6.02 g | C(C1=CC=CC=C1)NC[C@@H]1OC2=C(OC1)C=CC(=C2CC(=O)OCC)[N+](=O)[O-] | C20H22N2O6
reactant | H3PO4 | 17.4 mmol, 1.21 mL | OP(=O)(O)O | H3O4P
catalyst | Pt—C | 1.0 g | [Pt] | Pt
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (2S)-2-[(benzylamino)methyl]-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-e]indol-8-one | 2.50 g, 55% | C(C1=CC=CC=C1)NC[C@H]1COC=2C(=C3CC(NC3=CC2)=O)O1 | C18H18N2O3
